US05164111
a solution of 22.7 g of DCCI in 20 ml of CH2Cl2 is added at 0° to a mixture of 18.6 g of 4,4'-dihydroxy-1,1'-biphenyl, 15.5 g of (S)-2-cyano-2-methylhexanoic acid, 1.2 g of 4-dimethylaminopyridine and 100 ml of CH2Cl2, and the mixture is stirred at room temperature for 2 hours. The precipitate is filtered off with suction, the filtrate is concentrated and chromatography over silica gel gives 4'-(2-cyano-2-methylhexanoyloxy)-4-hydroxy-1,1'-biphenyl (optically active).

reactant | DCCI | 22.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4,4'-dihydroxy-1,1'-biphenyl | 18.6 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | (S)-2-cyano-2-methylhexanoic acid | 15.5 g | C(#N)[C@@](C(=O)O)(CCCC)C | C8H13NO2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4'-(2-cyano-2-methylhexanoyloxy)-4-hydroxy-1,1'-biphenyl | C(#N)C(C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)O)(CCCC)C | C20H21NO3
